US05204326
Preparation of Boc-Thr(Bzl)-Asp-OEt
To a suspension consisting of 2.3 g of H-Asp-OEt, 5.8 g of Boc-Thr(Bzl)-OSu, 20 ml of THF and 20 ml of DMF was added 2 ml of triethylamine under ice-cooling condition, and the mixture was stirred for 1 hour, then the pH of the reaction mixture was controlling to about pH 7, and the reaction was continued for 36 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and the thus obtained residue was acidified by adding 1N-hydrochloric acid, then was extracted with ethyl acetate (80 ml×3 times). The organic layer was washed with water, then with a saturated sodium chloride aqueous solution, and dried over anhydrous magnesium sulfate, then concentrated under reduced pressure. Crystallized and recrystallized from diethyl ether-petroleum ether to obtain 5.59 g (yield: 86.6%) of the above-mentioned objective product.

reactant | H-Asp-OEt | 2.3 g | N[C@@H](CC(O)=O)C(=O)OCC | C6H11NO4
reactant | Boc-Thr(Bzl)-OSu | 5.8 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C20H26N2O7
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | Boc-Thr(Bzl)-Asp-OEt | 5.59 g, yield: 86.6% | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CC(O)=O)C(=O)OCC)C(=O)OC(C)(C)C | C22H32N2O8
